US04447361
5,6-Dihydro-N,N-dimethyl-6-phenyl-11H-pyrido[2,3-b][1,4]benzodiazepine-11-propanamine, dihydrochloride hemihydrate
A solution of 3.0 g (0.0064 mole) of N,N-dimethyl-6-phenyl-11H-pyrido[2,3-b][1,4]benzodiazepine-11-propanamine in absolute methanol was adjusted to pH 5.6 with methanolic hydrogen chloride solution. To this solution was added at one time, 0.7 g (0.011 mole) of NaBH3CN and the reaction mixture was refluxed for 20 min. The ethanol was removed in vacuo and the residue was partitioned between dilute sodium hydroxide and methylene chloride. The methylene chloride layer was dried over magnesium sulfate and concentrated to leave a residue which was twice crystallized from 2-propanol and isopropyl ether. A yellow solid, 1.6 g (57%) was obtained which loses its crystalline structure on heating starting at 156°-160° C. with decomposition at 180°-195° C.

reactant | N,N-dimethyl-6-phenyl-11H-pyrido[2,3-b][1,4]benzodiazepine-11-propanamine | 0.0064 mole, 3.0 g | CN(CCCN1C2=C(N=C(C3=C1C=CC=C3)C3=CC=CC=C3)C=CC=N2)C | C23H24N4
reactant | hydrogen chloride | Cl | ClH
reactant | NaBH3CN | 0.011 mole, 0.7 g | [BH3-]C#N.[Na+]
reactant | methanol | CO | CH4O
product | 5,6-Dihydro-N,N-dimethyl-6-phenyl-11H-pyrido[2,3-b][1,4]benzodiazepine-11-propanamine, dihydrochloride hemihydrate | O.Cl.Cl.CN(CCCN1C2=C(NC(C3=C1C=CC=C3)C3=CC=CC=C3)C=CC=N2)C.CN(CCCN2C3=C(NC(C1=C2C=CC=C1)C1=CC=CC=C1)C=CC=N3)C.Cl.Cl | InChI=1S/2C23H26N4.4ClH.H2O/c2*1-26(2)16-9-17-27-21-14-7-6-12-19(21)22(18-10-4-3-5-11-18)25-20-13-8-15-24-23(20)27;;;;;/h2*3-8,10-15,22,25H,9,16-17H2,1-2H3;4*1H;1H2
